US05451563
Preparation of Example 15: 3-(tert-Butyldimethylsilylmethyl)pyridine Via Procedure C:
In a 500 ml 3 neck round bottomed flask stirring under N2 was charged 33.1 ml of 2M phenyl lithium, in 70/30 cyclohexane diethyl ether, (0.0662 moles, 1.0 eq.), to which 6.70 g of diisopropylamine (1.0 eq. 0.0662 moles) in 10 ml of diethylether was pipetted into the flask followed by rapid addition of 6.16 g of 3-picoline (1.0 eq., 0.066 moles) in 10 ml of diethylether and 10.0 g of tert-butyldimethylsilylchloride (1.0 eq., 0.0662 moles) in 10 ml diethyl ether. The temperature of the reaction was maintained below 35° C. with an ice bath during the additions. After 1 hour of stirring GLC indicated the reaction was complete. The reaction was quenched by adding 100 ml of water, extracted with 250 ml of diethylether and washed with 2×100 ml of water. The ether was dried over magnesium sulfate and concentrated to give 12.3 g of an orange oil. GLC indicated the crude mixture was 96% product. A 7.0 g portion was purified by flash chromatography with 1:4 ethyl acetate/hexane and afforded 3.8 g (48.7% yield based on chromatographic portion) of 3-(tert-butyldimethylsilyl)pyridine.

reactant | phenyl lithium | 2M, 33.1 ml | C1(=CC=CC=C1)[Li]
reactant | diisopropylamine | 0.0662 moles, 6.70 g, 1.0 eq | C(C)(C)NC(C)C | C6H15N
reactant | 3-picoline | 0.066 moles, 6.16 g, 1.0 eq. | N1=CC(=CC=C1)C | C6H7N
reactant | tert-butyldimethylsilylchloride | 0.0662 moles, 10.0 g, 1.0 eq. | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | diethylether | 10 ml | C(C)OCC | C4H10O
solvent | diethylether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 3-(tert-Butyldimethylsilylmethyl)pyridine | 12.3 g | [Si](C)(C)(C(C)(C)C)CC=1C=NC=CC1 | C12H21NSi
